US04198420
A solution of 5.0 g of 10,11-dihydro-1'-methyl-11-oxospiro[dibenz(b,f)thiepin-10,4'-piperidine], free base of Example 8, in 40 ml of tetrahydrofuran is treated according to the procedure of Example 7 to provide 10,11-dihydro-11-hydroxy-1'-methylspiro[dibenz(b,f)thiepin-10,4'-piperidine].

reactant | 10,11-dihydro-1'-methyl-11-oxospiro[dibenz(b,f)thiepin-10,4'-piperidine] | 5.0 g | CN1CCC2(CC1)C(C1=C(SC3=C2C=CC=C3)C=CC=C1)=O | C19H19NOS
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 10,11-dihydro-11-hydroxy-1'-methylspiro[dibenz(b,f)thiepin-10,4'-piperidine] | OC1C2=C(SC3=C(C=CC=C3)C13CCN(CC3)C)C=CC=C2 | C19H21NOS
